US04333928
A solution of 5 g of 3-methoxy-1,3,5(10)-estratrien-17-one N,N-dimethylhydrazone in 50 ml of absolute tetrahydrofuran (THF) is combined dropwise at 0° C. with 13 ml of a 15% solution of n-butyllithium in hexane. After this addition the mixture is stirred for 60 minutes under argon at 0° C., then 1.3 ml of methyl iodide is added dropwise thereto at 0° C., and the mixture is stirred for another 30 minutes at room temperature. To work up the mixture, it is poured into saturated ammonium chloride solution and extracted with ethyl acetate. Crystallization from acetonitrile yields 5 g of 3-methoxy-16α-methyl-1,3,5(10)-estratrien-17-one N,N-dimethylhydrazone, m.p. 122°-124° C.

reactant | 3-methoxy-1,3,5(10)-estratrien-17-one N,N-dimethylhydrazone | 5 g | CN(N=C1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)C | C21H30N2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl iodide | 1.3 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-methoxy-16α-methyl-1,3,5(10)-estratrien-17-one N,N-dimethylhydrazone | 5 g | CN(N=C1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)C | C22H32N2O
